US04707497
To a mixture of 1.77 g of 2-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene and 1.1 g of triethylamine in 25 ml of tetrahydrofurane, there is added slowly 1.94 g of bromoacetophenone in 50 ml of tetrahdryofurane. The reaction mixture is left under stirring at room temperature for 2 hours, then is filtered andevaporated. The residue thus obtained is dissolved in isopropyl alcohol and acidified with a solution of hydrogen chloride in isopropyl alcohol, then it is precipitated with an etheral solution, filtered and dried. To the solution of the residue in 70 ml of methanol, cooled to 4° C., there is added slowly 1.5 g of sodium borohydride. The reaction mixture is stirred at room temperature for an hour, poured into water and acidified with acetic acid. The solution is made alkaline with sodium bicarbonate and the organic phase is extracted with methylene chloride, dried and evaporated to dryness. The oil thus obtained is purified by flash-chromatography using a mixture ethyl acetate/methanol 8/2. After recrystallization from isopropyl alcohol, the 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol hydrochloride is obtained. Yield: 30% of the theoretical value.

reactant | 2-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene | 1.77 g | NC1CC2=CC(=CC=C2CC1)OC | C11H15NO
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetophenone | 1.94 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofurane | 25 ml | O1CCCC1 | C4H8O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol hydrochloride | Yield: 30% | Cl.COC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC=CC=C1 | InChI=1S/C19H23NO2.ClH/c1-22-18-10-8-14-7-9-17(11-16(14)12-18)20-13-19(21)15-5-3-2-4-6-15;/h2-6,8,10,12,17,19-21H,7,9,11,13H2,1H3;1H
